US06846835B2
Synthesis of 3-(benzylamino)propyl(2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-phenylethanoate
To a methanol solution of 87 mg of 3-aminopropyl(2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-phenylethanoate, 35 mg of benzaldehyde was added at room temperature, stirred for 30 minutes at the same temperature, sodium borohydride was added, and further stirred for 30 minutes. The reaction liquid was diluted with ethyl acetate, washed successively with saturated aqueous sodium hydrogencarbonate solution and saturated brine, and dried over anhydrous sodium sulfate. Distilling the solvent off under reduced pressure, the resulting residue was purified on silica gel column chromatography (eluent: chloroform/methanol=50/1), to provide the title compound.

reactant | methanol | CO | CH4O
reactant | 3-aminopropyl(2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-phenylethanoate | 87 mg | FC1(C[C@@H](CC1)[C@](C(=O)OCCCN)(C1=CC=CC=C1)O)F | C16H21F2NO3
reactant | benzaldehyde | 35 mg | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium borohydride | [BH4-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(benzylamino)propyl(2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-phenylethanoate | FC1(C[C@@H](CC1)[C@](C(=O)OCCCNCC1=CC=CC=C1)(C1=CC=CC=C1)O)F | C23H27F2NO3
